US05015640
starting from ethyl 5,7-dihydro-6H-dibenz[c,e]azepine-6-carboximidate and p-bromobenzoyl chloride, there is obtained ethyl N-(p-bromobenzoyl)-5,7-dihydro-6H-dibenz[c,e]azepine-6-carboximidate, m.p. 116°-117° C.;

reactant | ethyl 5,7-dihydro-6H-dibenz[c,e]azepine-6-carboximidate | C1=CC=CC=2CN(CC3=C(C21)C=CC=C3)C(OCC)=N | C17H18N2O
reactant | p-bromobenzoyl chloride | BrC1=CC=C(C(=O)Cl)C=C1 | C7H4BrClO
product | ethyl N-(p-bromobenzoyl)-5,7-dihydro-6H-dibenz[c,e]azepine-6-carboximidate | BrC1=CC=C(C(=O)N=C(OCC)N2CC3=C(C4=C(C2)C=CC=C4)C=CC=C3)C=C1 | C24H21BrN2O2
